Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro / Feraheme
 
Attending: ___
 
Chief Complaint:
Nasal congestion/Cough/Generalized aches
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of CAD status post multiple stents, HFpEF, 
HCV cirrhosis, HIV, CKD, COPD, HTN, and anemia of chronic 
disease, who presented with 24 hours of nasal congestion, cough 
and generalized aches. 

Patient was in his usual state of health until about three days 
prior to admission. At that time, he noticed his appetite 
decreased and he did not feel like himself. On ___, he 
developed non-productive cough, nasal congestion, and severe 
generalized aches. Denied chest pain, shortness of breath, 
light-headedness, dizziness, or fevers. However, it is worth 
noting, the patient did not actually check his temperature. He 
did get the flu vaccine this year. No sick contact exposure. 

In the ED, initial VS were notable for;
Temp 100.4  HR 101  BP 172/80  RR 18  SaO2 98% RA

Examination was notable for;
Clear lungs bilaterally, no sinus tenderness, and 
soft/non-tender abdomen.

Labs were notable for;
WBC 8.1  Hgb 9.3  Plt 110
Na 139  K 4.3  Cl 103  HCO3 21  BUN 97  Cr 3.8  Glucose 118 
Ca 9.5  Mg 1.7  Phos 3.2

Urine studies notable for negative nitrites, negative leuks, and 
few bacteria.

Influenza A PCR positive.

CXR demonstrated a mildly enlarged cardiac silhouette, but no 
effusion, edema, consolidation or PTX.

ECG demonstrated a rate of 103bpm, sinus rhythm, leftward axis, 
normal intervals, poor R wave progression, similar to prior.

Patient was given;
- Oseltamivir 30mg

Vital signs on transfer;
Temp 98.8  HR 87  BP 180/76  RR 17  SaO2 96% RA

Upon arrival to the floor, patient repeats the above story. 
Currently, he continues to feel generalized aches, although not 
as severe as before. He also feels his appetite is slightly 
improving and would like to order breakfast this morning. 

10-point review of systems otherwise negative.
 
Past Medical History:
- CAD status post multiple PCIs
- HFpEF
- Hepatitis C cirrhosis complicated by portal HTN
- HIV
- CKD
- HTN
- PAD
- Mild aortic incompetence
- GERD
- Chronic diarrhea
- COPD
- Anemia of chronic disease
- G6PD deficiency 
- Peripheral neuropathy
- BPH
- IBS
- SIADH
- Cervical stenosis status post surgical repair
 
Social History:
___
Family History:
Mother died aged ___ secondary to heart failure. Father died aged 
___ of unknown causes. Brother aged ___ with history of 
cardiomegaly. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 99.2  BP 177/84  HR 90  RR 18  SaO2 99% RA 
GENERAL: sitting comfortably in bed, no distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, JVP below clavicle at 90 degrees 
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, trace lower extremity edema
NEURO: A/O x3, grossly intact

DISCHARGE PHYSICAL EXAM:
========================
VS: 97.7,  150 / 76,77,18,100%Ra
O2 sat: 99% O2 delivery: RA  
GENERAL: Older man sitting in bed in NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB - no wheezes, crackles, or rhonchi
___: +BS, soft, non-tender, +mild distention
EXTREMITIES: warm, well perfused, trace lower extremity edema
NEURO: A/O x3, grossly intact
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:48AM BLOOD WBC-8.1 RBC-2.98* Hgb-9.3* Hct-30.1* 
MCV-101* MCH-31.2 MCHC-30.9* RDW-13.1 RDWSD-48.7* Plt ___
___ 02:48AM BLOOD Glucose-118* UreaN-97* Creat-3.8* Na-139 
K-4.3 Cl-103 HCO3-21* AnGap-15
___ 02:48AM BLOOD Calcium-9.5 Phos-3.2 Mg-1.7
___ 01:29AM URINE Color-Straw Appear-Clear Sp ___
___ 01:29AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:29AM URINE RBC-0 WBC-1 Bacteri-FEW* Yeast-NONE Epi-1

PERTINENT INTERVAL LABS:
======================
___ 11:34AM URINE Color-Straw Appear-Clear Sp ___
___ 11:34AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:34AM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 11:34AM URINE CastHy-4*
___ 11:34AM URINE AmorphX-RARE*
___ 11:34AM URINE Hours-RANDOM UreaN-567 Creat-101 Na-43

___ 04:42AM BLOOD ___ Folate->20 Hapto-217*

MICRO:
======
___ 02:12AM OTHER BODY FLUID FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE

Time Taken Not Noted     Log-In Date/Time: ___ 1:30 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 9:07 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ ___ (___) ON 
___ @
      2:10PM. 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

___ 9:07 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   CYCLOSPORA STAIN (Pending): 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

___ 09:07PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE
___ 09:07PM STOOL CMV PCR: Negative

Time Taken Not Noted     Log-In Date/Time: ___ 9:46 am
      STOOL     CONSISTENCY: NOT APPLICABLE

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED. 

IMAGING:
========
___ CXR IMPRESSION: No evidence of acute cardiopulmonary 
abnormality.

DISCHARGE LABS:
================
___ 04:32AM BLOOD WBC-5.3 RBC-2.51* Hgb-7.8* Hct-24.9* 
MCV-99* MCH-31.1 MCHC-31.3* RDW-13.8 RDWSD-50.4* Plt Ct-97*
___ 04:32AM BLOOD ___ PTT-37.9* ___
___ 04:32AM BLOOD Glucose-104* UreaN-81* Creat-2.9* Na-142 
K-4.1 Cl-111* HCO3-20* AnGap-11
___ 04:32AM BLOOD Calcium-8.2* Phos-2.5* Mg-1.8

 
Brief Hospital Course:
====================
ASSESSMENT AND PLAN:
====================
Mr. ___ is a ___ with a history of CAD status post multiple 
stents, HFpEF, HCV cirrhosis, HIV, CKD, COPD, HTN, and anemia of 
chronic disease, who presented with 24 hours of nasal 
congestion, cough and generalized aches; found to have influenza 
A. 

====================
ACUTE/ACTIVE ISSUES:
====================
# Influenza A
# COPD
Presented with 24 hours of nasal congestion, non-productive 
cough, and generalized aches, subsequently found to have 
positive influenza A PCR. CXR without any evidence of 
superimposed PNA. Admitted given high risk comorbidities 
including COPD and immunosuppression (HIV, HCV). Completed a 5d 
course of Oseltamivir 30mg daily (renally dosed, ___. 
Otherwise continued his home Combivent inhaler q6 hrs PRN and 
started a PRN Albuterol nebulizer. Overall the patient felt 
significantly improved at discharge. He is to follow up with his 
PCP ___ 1 week for follow up.

# Diarrhea
# C. Difficile
Of note, most recent CD4 in the 400s. However, patient noted to 
have several day history of non-bloody diarrhea. Stool studies 
negative for Norovirus, Shigella, Salmonella, Campylobacter, 
Crypto/Giardia, O&P, and CMV. Viral culture NGTD and Cyclospora 
PND, which PCP is to follow up on. Ultimately, C. Diff Ag 
returned positive (however toxin negative) indicating likely 
colonization - however given immunosuppressed state we opted to 
treat with a 14d course of PO Vancomycin 125mg QID (___). 
Of note, had significant associated abdominal distention and 
moderate pain, however KUB was reassuring overall (showed lots 
of gas). As such, was also started on Simethicone which improved 
his symptoms. His diarrhea was improving at discharge. 

# ___ on CKD, resolved: Baseline creatinine 3.5-3.8, with a peak 
Cr of 4.4 during his hospitalization that was most consistent 
with a pre-renal etiology based on FEUrea, urine sediment (not 
muddy brown casts), and history of influenza and diarrhea (as 
per above). His ___ resolved with fluids and 1U pRBC. His home 
Torsemide 60mg daily was reduced to 40mg daily given his 
continued diarrhea at discharge, and PCP should reconsider 
increasing back to home dose of 60mg daily at follow up visit. 
He was otherwise continued on his home Calcitriol and was Sodium 
Bicarbonate 650mg TID. Of note, he missed his Epo injection on 
___ and this was rescheduled to ___ at discharge. His discharge 
Cr was 2.9.

# Hypernatremia
Became mildly hypernatremic to 148 during his hospitalization 
likely in the setting of poor PO intake. Free water deficit of 
1.7 L. S/p 1L D51/2NS and increased H2O intake, with resolution 
of hypernatremia. Discharge Na of 142.

# Acute on chronic anemia
# Coagulopathy
Baseline Hgb ___, which has subsequently downtrended to 7.5. 
Additionally was coagulopathic. However, labs reassuring against 
DIC or hemolysis. Stool guaiac negative. His anemia was overall 
felt to be in part due to missing his Epo injection on ___, 
however this was rescheduled to ___ at discharge. He received 1U 
pRBC with an appropriate increase to Hgb 8.5. At discharge, his 
Hgb was 7.8. His coagulopathy was felt to be due to poor 
nutritional status in the setting of acute illness.

# Vasovagal syncope
Overnight on ___, had witnessed syncope episode while sitting 
up to use the urinal. Overall was most concerning for a 
vasovagal event in the setting of decreased BP and relative 
hypovolemia from influenza infection, particularly given 
positive orthostatics. No h/o seizure or arrhythmia. Remained 
syncope free for the rest of his hospitalization. 

# Hypertension
Patient on aggressive regimen as an outpatient. BP was elevated 
to 180s while in the ED in the setting of missing 
anti-hypertensive medications the day prior to admission. As 
such, continued his home regimen of Hydralazine 50mg BID, 
Carvedilol 25mg BID, Diltiazem 240mg daily, and Doxazosin 2mg 
QHS.

======================
CHRONIC/STABLE ISSUES:
======================
# HIV
HIV well controlled with CD4 462 and VL<20 recently on ___. 
Continued home abacavir 300mg BID, efavirenz 600mg daily, and 
lamivudine 100mg daily

# CAD
Continued home aspirin 81mg daily, Pravastatin 20mg daily, 
Carvedilol 25mg BID, Diltiazem 240mg daily, and ISMN 120mg BID.

# HFpEF
For preload, initially continued home Torsemide 60mg daily 
(however this was held when the patient developed ___ and 
reduced to 40mg daily at discharge). For non-hormonal blockade, 
continued home Carvedilol 25mg BID. For afterload, continued 
home Hydralazine 50mg BID and Diltiazem 240mg daily. 

# GERD
Continued pantoprazole 20mg BID

TRANSITIONAL ISSUES:
=====================
[ ] PCP to follow up remaining stool studies: Cyclospora, final 
viral Cx
[ ] Recommend PCP obtain repeat CBC, BMP/lytes at follow up 
visit to ensure stable Hgb, Cr, and electrolytes
[ ] PCP to follow up abdominal pain, diarrhea
[ ] PCP to consider increasing Torsemide back to home dose of 
60mg daily pending continued diarrhea and electrolyte 
derangements (discharged on Torsemide 40mg daily)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gas-X Extra Strength (simethicone) 125 mg oral TID:PRN 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 120 mg PO BID 
4. LaMIVudine 100 mg PO DAILY 
5. Doxazosin 2 mg PO HS 
6. Abacavir Sulfate 300 mg PO BID 
7. Efavirenz 600 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Pravastatin 10 mg PO QPM 
11. Pantoprazole 20 mg PO Q12H 
12. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
13. Cyanocobalamin 1000 mcg PO DAILY 
14. HydrALAZINE 50 mg PO Q12H 
15. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
16. Torsemide 60 mg PO DAILY 
17. CARVedilol 25 mg PO BID 
18. Sodium Bicarbonate 650 mg PO TID 
19. Fluticasone Propionate NASAL 1 SPRY NU BID nasal congestion 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID Duration: 14 Days  
2.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Abacavir Sulfate 300 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
6.  CARVedilol 25 mg PO BID  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Diltiazem Extended-Release 240 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Doxazosin 2 mg PO HS  
11.  Efavirenz 600 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU BID nasal congestion 
 
13.  Gas-X Extra Strength (simethicone) 125 mg oral TID:PRN  
14.  HydrALAZINE 50 mg PO Q12H  
15.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H  
16.  Isosorbide Mononitrate (Extended Release) 120 mg PO BID  
17.  LaMIVudine 100 mg PO DAILY  
18.  Pantoprazole 20 mg PO Q12H  
19.  Pravastatin 10 mg PO QPM  
20.  Sodium Bicarbonate 650 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Influenza A

Secondary:
C. Difficile colitis
___ on CKD
Vasovagal syncope
COPD
Hypertension
HIV
CAD
Chronic HFpEF
GERD
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for muscle aches and nasal 
congestion, and were found to have the flu. We started the 
antiviral medication to treat the flu. We also monitored your 
blood pressure closely, as it was quite high when you first came 
in. Unfortunately, you passed out from being dehydrated. You 
also developed diarrhea, which was found to be due to a 
bacterial called "C. Difficile." Ultimately, you improved and 
were ready to be discharged home.

WHAT TO DO ONCE HOME:
- Please attend all of your appointments as scheduled
- Please take all of your medications as prescribed
- Please drink plenty of fluids
- Please return to the ED for evaluation if you develop fevers, 
worsening cough, worsening shortness of breath, worsening 
diarrhea or abdominal pain, or for any other concerning symptom 
to you
 
Followup Instructions:
___